US04812450
To a suspension of magnesium turnings (1.0 g, 0.04 mole) in 25 ml tetrahydrofuran (THF) and 10 ml ether, was added a few drops of a solution of 2-bromo-1-(2-fluorobenzyl)pyrrole (10 g, 0.04 mole) in 35 ml THF. The reaction was initiated with a few drops of dibromoethane and heat, and reflux was maintained by the addition of the bromo compound. After stirring at reflux for thirty minutes, the mixture was cooled with an ice-bath, then a solution of 1-butyl-4-piperidone (4.6 g, 0.03 mole) in 25 ml THF was added. After stirring at ambient temperature for one hour, the mixture was poured into an NH4Cl solution, then extracted with ether. The ether solution was washed with water, then dried over anhydrous MgSO4. After evaporation of the solvent, the resultant oil (11 g) was purified by HPLC using ethyl acetate as the eluent to give 3.4 g of 1-butyl-4-[1-(2-fluorobenzyl)pyrrol-2-yl]-4-piperidinol; m.p. 132°-5° C.

reactant | magnesium | 0.04 mole, 1.0 g | [Mg] | Mg
reactant | 2-bromo-1-(2-fluorobenzyl)pyrrole | 0.04 mole, 10 g | BrC=1N(C=CC1)CC1=C(C=CC=C1)F | C11H9BrFN
reactant | 1-butyl-4-piperidone | 0.03 mole, 4.6 g | C(CCC)N1CCC(CC1)=O | C9H17NO
reactant | NH4Cl | [NH4+].[Cl-]
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ether | 10 ml | CCOCC | C4H10O
solvent | THF | 35 ml | O1CCCC1 | C4H8O
catalyst | dibromoethane | a few drops | BrC(C)Br | C2H4Br2
solvent | THF | 25 ml | O1CCCC1 | C4H8O
product | 1-butyl-4-[1-(2-fluorobenzyl)pyrrol-2-yl]-4-piperidinol | 3.4 g | C(CCC)N1CCC(CC1)(O)C=1N(C=CC1)CC1=C(C=CC=C1)F | C20H27FN2O
